US09169245B2
3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (209 mg, 0.390 mmol) was dissolved in pyridine (4 ml). 3-(chlorosulfonyl)benzoic acid (172 mg, 0.781 mmol) was added slowly at 0° C., and the reaction was stirred at RT for 8 hours. The reaction mixture was diluted with HCl 1N, filtered, and the precipitate was dissolved in DCM. The organic phase was washed with HCl 1N (2×) and brine, dried over Na2SO4 and concentrated under vacuum to give 4-((S)-2-((S)-3-(3-carboxyphenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (100 mg, 0.139 mmol, 35.6% yield), that was used in the next step without any further purification.

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.390 mmol, 209 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C22H22Cl2F2N2O5S
reactant | 3-(chlorosulfonyl)benzoic acid | 0.781 mmol, 172 mg | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | 4-((S)-2-((S)-3-(3-carboxyphenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.139 mmol, 100 mg, 35.6% yield | C(=O)(O)C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](SCC1)C(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C29H26Cl2F2N2O9S2
